US04874768
At room temperature under argon, 7 ml of formic acid ethyl ester and 3.6 ml (44 mmol) of ethanedithiol are added in succession to a solution of 6.9 g of 1,1-diethyl-3-(1,6-dimethyl-8α-ergolinyl)urea in 200 ml of chloroform. Then, 8.8 ml (80 mmol) of titanium(IV) chloride dissolved in 100 ml of chloroform is added gradually dropwise to the reaction mixture and the latter is stirred for 20 hours at room temperature. Although the starting material at this point in time has not as yet been completely reacted, the reaction mixture is worked up to avoid further formation of the disubstituted compound. For this purpose, the reaction mixture is cooled in an ice bath and combined, in succession, dropwise with 50 ml of methanol and 40 ml of water. Then the mixture is made alkaline with 25% strength ammonia solution and extracted with methylene cloride. The organic phases are washed with water and dried over magnesium sulfate. The evaporated residue is crystallized under boiling heat from methanol/ethyl acetate, thus obtaining 3.0 g of 1,1-diethyl-3[2-(1,3-dithiolan-2-yl)-1,6-dimethyl-8α-ergolinyl]urea (37% yield).

reactant | formic acid ethyl ester | 7 ml | C(C)OC=O | C3H6O2
reactant | ethanedithiol | 44 mmol, 3.6 ml | C(C)(S)S | C2H6S2
reactant | 1,1-diethyl-3-(1,6-dimethyl-8α-ergolinyl)urea | 6.9 g | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=CN(C4=CC=CC([C@H]2C1)=C34)C)C)CC | C21H30N4O
reactant | ammonia | N | H3N
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | titanium(IV) chloride | 80 mmol, 8.8 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | water | 40 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 1,1-diethyl-3[2-(1,3-dithiolan-2-yl)-1,6-dimethyl-8α-ergolinyl]urea | 3.0 g, 37% yield | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(N(C4=CC=CC([C@H]2C1)=C34)C)C3SCCS3)C)CC | C24H34N4OS2
